US03962314
330 g. (3 moles) of hydroquinone and 974 g. (3 moles) of diphenyl isophthalate are placed in a four-necked resin kettle equipped as in Example 3. The reaction mixture is stirred constantly under a nitrogen atmosphere throughout the run. The mixture is heated to 250°C, forming a melt, and the temperature is maintained at 250°C for 16 hours. During this period the hydroquinone and diphenyl isophthalate react to produce, as the principal product, p-hydroxyphenyl phenyl isophthalate, i.e., an ester of the formula ##SPC18##

reactant | hydroquinone | 3 moles | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | diphenyl isophthalate | 3 moles | C(C1=CC(C(=O)OC2=CC=CC=C2)=CC=C1)(=O)OC1=CC=CC=C1 | C20H14O4
product | p-hydroxyphenyl phenyl isophthalate | C(C1=CC(C(=O)OC2=CC=CC=C2)=CC=C1)(=O)OC1=CC=C(C=C1)O | C20H14O5
